US04788190
Add the cyanohydrin prepared in Example 5(a), 2,4-dichloroacetophenone cyanohydrin-O-trimethylsilylether, (75 g) dropwise to a solution of concentrated H2SO4 containing 4% SO3 (60 mL) and 250 mg of copper powder at 40° C. During the addition, maintain the reaction temperature between 80°-85° C. (water bath). After all cyanohydrin is added, raise the temperature to 100° C. and heat the reaction mixture at this temperature for 30 min. Cool the reaction mixture to 90° C. and carefully treat with water (26 mL) and ethanol (60 mL). Heat the mixture at 100° C. for 15 hrs, cool and dilute with ice cold water (200 mL). Separate the organic layer, dilute with CH2Cl2 (100 mL) and wash with brine (100 mL). Extract the combined aqueous phase containing solids twice with EtOAc (400 mL), wash with saturated NaHCO3, water (100 mL each) and dry over Na2SO4. Eyaporate EtOAc in vacuo to give an oil containing a crystalline solid. Dilute this residue with a small yolume of CH2Cl2 -separated crystals of α-(2,4-dichlorophenyl)-α-methyleneacetamide which were collected by filtration (26 g). Combine the filtrate with the organic layer obtained earlier and chromatograph the concentrate on silica gel (300 g) to provide ethyl-α-(2,4-dichlorophenyl)-α-methyleneacetate.

reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | water | O | H2O
reactant | water | 26 mL | O | H2O
reactant | ethanol | 60 mL | C(C)O | C2H6O
reactant | α-(2,4-dichlorophenyl)-α-methyleneacetamide | ClC1=C(C=CC(=C1)Cl)C(C(=O)N)=C | C9H7Cl2NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper | 250 mg | [Cu] | Cu
product | ethyl-α-(2,4-dichlorophenyl)-α-methyleneacetate | C(C)OC(C(=C)C1=C(C=C(C=C1)Cl)Cl)=O | C11H10Cl2O2
